US04301066
A mixture of Boc-Ser(But)-OH (26 g), dicyclohexylcarbodiimide (28.3 g) and 1-hydroxybenzotriazole (18.6 g) in dimethylformamide (200 ml) was stirred at ice-bath temperature for 60 min and at room temperature for 60 min. A solution of H-Tyr-OMe hydrochloride (23.6 g) and N-ethylmorpholine (14.36 ml) in dimethylformamide (160 ml) was added to the above mixture. The resulting mixture was stirred at room temperature overnight and filtered. The filtrate was evaporated and the residue was dissolved in ethyl acetate. The solution was washed with 5% aqueous citric acid, water, saturated sodium bicarbonate solution, water and brine, dried over anhydrous sodium sulfate, and evaporated to give 39 g of Boc-Ser(But)-Tyr-OMe as an amorphous solid. This dipeptide was crystallized from diethyl ether-hexane to a mp of 109°-111° C.; Anal. Calcd for C22H34N2O7 : C, 60.26% H, 7.82% N, 6.39% and Found: C, 60.68% H, 7.87% N, 6.37% and nmr (CDCl3) δ 1.17 (s, 9H), 1.44 (s, 9H) and 3.67 (s, 3H).

reactant | Boc-Ser(But)-OH | 26 g | N([C@@H](COC(C)(C)C)C(=O)O)C(=O)OC(C)(C)C | C12H23NO5
reactant | dicyclohexylcarbodiimide | 28.3 g | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
reactant | 1-hydroxybenzotriazole | 18.6 g | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | H-Tyr-OMe hydrochloride | 23.6 g | N[C@@H](CC1=CC=C(C=C1)O)C(=O)OC.Cl
reactant | N-ethylmorpholine | 14.36 ml | C(C)N1CCOCC1 | C6H13NO
solvent | dimethylformamide | 200 ml | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 160 ml | CN(C=O)C | C3H7NO
product | Boc-Ser(But)-Tyr-OMe | 39 g | N([C@@H](COC(C)(C)C)C(=O)N[C@@H](CC1=CC=C(C=C1)O)C(=O)OC)C(=O)OC(C)(C)C | C22H34N2O7
